US09101616B2
Step-3: 5-fluoro-1-tosyl-1H-indole-2-carbaldehyde
p-Toluenesulfonyl chloride (2.445 g, 12.82 mmol), N,N-dimethyl-4-aminopyridine (0.196 g, 1.603 mmol) and triethylamine (2.253 ml, 16.03 mmol) were added to a solution of 5-fluoro-1H-indole-2-carbaldehyde (0.523 g, 3.21 mmol) in dichloromethane (10 ml) and stirred at room temperature for 20 hours. After reaction, the mixture was poured into saturated sodium bicarbonate aqueous solution, and the aqueous phase was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (10:1) to give 823 mg (81% yield) of the title compound as a white crystal:

reactant | p-Toluenesulfonyl chloride | 12.82 mmol, 2.445 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 16.03 mmol, 2.253 ml | C(C)N(CC)CC | C6H15N
reactant | 5-fluoro-1H-indole-2-carbaldehyde | 3.21 mmol, 0.523 g | FC=1C=C2C=C(NC2=CC1)C=O | C9H6FNO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | N,N-dimethyl-4-aminopyridine | 1.603 mmol, 0.196 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-fluoro-1-tosyl-1H-indole-2-carbaldehyde | 823 mg, 81% yield | FC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=C(C)C=C1)C=O | C16H12FNO3S
